US06437150B1
4-Hydroxy-decanoic Acid 3,7-Dimethyl-oct-6-enyl Ester
A solution of 2.0 g sodium borohydride in 30 ml of water was cooled to 5° C. A solution of 4-oxo-decanoic acid 3,7-dimethyl-oct-6-enyl ester in 75 ml of THF was added to the reaction during 12 minutes and the resulting reaction mixture was stirred at room temperature for 5 hours. Then the reaction mixture was diluted with ether, washed with saturated NaHCO3, brine and water. The organic phase was dried, filtered and evaporated to dryness. The resulting liquid was purified by chromatography to yield 7.6 g of a liquid.

reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
reactant | 4-oxo-decanoic acid 3,7-dimethyl-oct-6-enyl ester | CC(CCOC(CCC(CCCCCC)=O)=O)CCC=C(C)C | C20H36O3
solvent | water | 30 ml | O | H2O
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-Hydroxy-decanoic Acid 3,7-Dimethyl-oct-6-enyl Ester | 7.6 g | CC(CCOC(CCC(CCCCCC)O)=O)CCC=C(C)C | C20H38O3
